* source I-COMPARADOR-01
V_VIN         VINNEG N652820 0
M_M1         NDNEG VINNEG NDBIAS 0 CMOSN  
+ L=10u  
+ W=265u         
M_M2         NDPOS VINPOS NDBIAS 0 CMOSN  
+ L=10u  
+ W=265u         
V_VDD         N64870 0 3.3
M_M3         NDNEG NDNEG N64870 N64870 CMOSP  
+ L=10u  
+ W=200u         
V_VBIAS         VBIAS 0 1
M_M12         NDOUT NDPOS N64870 N64870 CMOSP  
+ L=10u  
+ W=1120u         
V_VQ2         N1312720 0 1.005
M_M4         NDPOS NDNEG N64870 N64870 CMOSP  
+ L=10u  
+ W=200u         
M_M13         NDOUT VBIAS 0 0 CMOSN  
+ L=16u  
+ W=215u         
M_M5         NDBIAS VBIAS 0 0 CMOSN  
+ L=12.5u  
+ W=65u         
V_VQ1         N652820 0 1.005
V_VREF         VINPOS N1312720 0
